US04929634
Preparation of 2-bromo-5-phenylpyrrole-3,4-dicarbonitrile
Under a nitrogen purge, 2-phenyl-pyrrole-3,4-dicarbonitrile (1.4 g; 0.0075 mol) is added to CHCl3 (35 mL), much of the solid dissolving. A solution of bromine (0.4 mL; 0.008 mol) in CHCl3 (5 mL) is added dropwise over 20 minutes. Initially the color is discharged rapidly, but as a new, gummy solid begins to precipitate, the color remains. After stirring 30 minutes at ambient, the mixture is brought to reflux, resulting in a much more discreet solid. After refluxing 90 minutes, the reaction mixture is cooled and an aliquot is removed and analyzed (HPLC), showing ca. 60% starting material still remaining. In a single portion fresh bromine (0.2 mL; 0.004 mol) is added, and refluxing continued another 45 minutes whereupon an aliquot shows 10% starting material remaining. Another fresh portion of bromine (0.2 mL; 0.004 mol) is added to the refluxing suspension and refluxing is continued another 30 minutes. The suspension is cooled and stirred 18 hours at room temperature. Solvent is removed under reduced pressure to yield a greenish solid which is extracted with hot CHCl3, leaving behind a dark residue. The extract is treated with DARCO and filtered hot. The clear yellow filtrate quickly began to deposit a white precipitate. After cooling to -10° C., the white solid is collected by filtration, m.p. 225°-258° C.

reactant | 2-phenyl-pyrrole-3,4-dicarbonitrile | 0.0075 mol, 1.4 g | C1(=CC=CC=C1)C=1NC=C(C1C#N)C#N | C12H7N3
reactant | bromine | 0.008 mol, 0.4 mL | BrBr | Br2
reactant | bromine | 0.004 mol, 0.2 mL | BrBr | Br2
reactant | bromine | 0.004 mol, 0.2 mL | BrBr | Br2
reactant | DARCO | C | CH4
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 35 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-5-phenylpyrrole-3,4-dicarbonitrile | BrC=1NC(=C(C1C#N)C#N)C1=CC=CC=C1 | C12H6BrN3
